US08685964B2
Step 4: 6-(1-Pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carboxamidine
With heating, 0.7 g (2.8 mmol) of 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbonitril was dissolved in 150 ml of abs. methanol, and 1 ml of a solution of sodium methoxide in methanol (30%, corresponds to 5.4 mmol) was added. The mixture was stirred at 65° C. until the thin-layer chromatogram (TLC) showed complete conversion, 1.5 g of ammonium chloride was added and the mixture was concentrated. The residue was boiled twice with in each case 30 ml of ethanol, the hot mixture was filtered and the combined filtrates were concentrated slightly. The mixture was allowed to stand at RT for 20 min, and the precipitate formed was filtered off with suction, washed with MTBE and dried on a rotary evaporator.

reactant | 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbonitril | 2.8 mmol, 0.7 g | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C#N | C14H9N5
reactant | sodium methoxide | C[O-].[Na+]
reactant | ammonium chloride | 1.5 g | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
solvent | methanol | 5.4 mmol | CO | CH4O
product | 6-(1-Pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carboxamidine | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C(=N)N | C14H12N6
